// Generated for: spectre
// Generated on: Feb 18 16:13:17 2016
// Design library name: 563_final
// Design cell name: hw4_inv_test
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
include "/project/linuxlab/cadence/CDK/ncsu/models/spectre/nom/ami06N.m"
include "/project/linuxlab/cadence/CDK/ncsu/models/spectre/nom/ami06P.m"

// Library name: 563_final
// Cell name: hw4_inv
// View name: schematic
subckt hw4_inv Vin Vout
    N0 (Vout Vin 0 0) ami06N w=1.95u l=900n as=2.925e-12 ad=2.925e-12 \
        ps=6.9u pd=6.9u m=1 region=sat
    P0 (Vout Vin vdd! vdd!) ami06P w=1.95u l=900n as=2.925e-12 \
        ad=2.925e-12 ps=6.9u pd=6.9u m=1 region=sat
ends hw4_inv
// End of subcircuit definition.

// Library name: 563_final
// Cell name: hw4_inv_test
// View name: schematic
I0 (net2 net1) hw4_inv
V1 (net2 0) vsource type=pulse val0=0 val1=0
V0 (vdd! 0) vsource type=pulse val0=0 val1=5 delay=100.0p
C0 (net1 0) capacitor c=100f m=1
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=100n write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
