// Generated for: spectre
// Generated on: Feb 13 16:32:48 2016
// Design library name: 563_final
// Design cell name: inv_test
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
include "/project/linuxlab/cadence/CDK/ncsu/models/spectre/nom/ami06N.m"
include "/project/linuxlab/cadence/CDK/ncsu/models/spectre/nom/ami06P.m"

// Library name: 563_final
// Cell name: inv
// View name: schematic
subckt inv_schematic Vin Vout
    N0 (Vout Vin 0 0) ami06N w=900n l=900n as=1.35e-12 ad=1.35e-12 ps=4.8u \
        pd=4.8u m=1 region=sat
    P0 (Vout Vin vdd! vdd!) ami06P w=3.3u l=900n as=4.95e-12 ad=4.95e-12 \
        ps=9.6u pd=9.6u m=1 region=sat
ends inv_schematic
// End of subcircuit definition.

// Library name: 563_final
// Cell name: inv_test
// View name: schematic
I0 (net1 net2) inv_schematic
V1 (net1 0) vsource type=dc
V0 (vdd! 0) vsource type=dc dc=5
C0 (net2 0) capacitor c=1p m=1
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
dc dc dev=V1 param=dc start=0 stop=5 oppoint=rawfile maxiters=150 \
    maxsteps=10000 annotate=status
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
